US08071625B2
To a solution of tert-butyl 4-(2-chlorobenzylcarbamoyl)-4-(hydroxymethyl)piperidine-1-carboxylate (500 mg, 1.3 mmol), in THF were added DMAP (32 mg, 0.26 mmol, 0.2 equiv.) and 4-trifloromethylphenylisocyanate (0.28 mL, 1.97 mmol, 1.5 equiv.). The reaction mixture was stirred for 1 h. The reaction mixture was concentrated to dryness. To a solution of the above crude mixture in CH3OH (3 mL) was added HCl (4 M in dioxane, 1 mL, 4 mmol, 3 equiv.). The reaction mixture was stirred overnight. The white solid was filtered and dried to give (4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-(trifluoromethyl)phenylcarbamate (615 mg, 93%). LRMS (M-Boc+H+) m/z 470.1.

reactant | tert-butyl 4-(2-chlorobenzylcarbamoyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 1.3 mmol, 500 mg | ClC1=C(CNC(=O)C2(CCN(CC2)C(=O)OC(C)(C)C)CO)C=CC=C1 | C19H27ClN2O4
reactant | 4-trifloromethylphenylisocyanate | 1.97 mmol, 0.28 mL, 1.5 equiv. | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | HCl | 4 mmol, 4 M, 1 mL, 3 equiv. | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | 0.26 mmol, 32 mg, 0.2 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3OH | 3 mL | CO | CH4O
product | (4-(2-chlorobenzylcarbamoyl)piperidin-4-yl)methyl 4-(trifluoromethyl)phenylcarbamate | 615 mg, 93% | FC(C1=CC=C(C=C1)NC(OCC1(CCNCC1)C(NCC1=C(C=CC=C1)Cl)=O)=O)(F)F | C22H23ClF3N3O3
